US03935218
The 2-(3-aminopropyl)-1-(4-chlorophenyl)isoindole, hydrochloride (2 gms.) is dissolved in water and neutralized with a sodium carbonate solution. The regenerated base is extracted with ethyl acetate, dried over magnesium sulfate and evaporated to dryness. The residue is dissolved in 250 ml. of ethanol and air is bubbled through the solution for 48 hours. The precipitated white crystalline solid is separated by filtration and upon recrystallization from dimethylformamide there is obtained 6-(4-chlorophenyl)-2,3,4,6-tetrahydropyrimido[2,1-a]isoindol-6-ol, m.p. 274°-6°C. dec., which is insoluble in water and soluble in dimethylacetamide.

reactant | 2-(3-aminopropyl)-1-(4-chlorophenyl)isoindole, hydrochloride | 2 gms | Cl.NCCCN1C(=C2C=CC=CC2=C1)C1=CC=C(C=C1)Cl
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
product | 6-(4-chlorophenyl)-2,3,4,6-tetrahydropyrimido[2,1-a]isoindol-6-ol | ClC1=CC=C(C=C1)C1(N2C(C3=CC=CC=C13)=NCCC2)O | C17H15ClN2O
